US08895571B2
Step B: tert-butyl[2-amino-2-(3-fluorophenyl)ethyl]carbamate
To a flask were added tert-butyl[2-(3-fluorophenyl)-2-oxoethyl]carbamate (0.32 g, 1.3 mmol) and ammonium acetate (2.02 g, 26.2 mmol) and methanol (10 mL) and sodium cyanoborohydride (0.22 g, 3.5 mmol). The mixture was refluxed for 2 h. The solvent was removed under vacuum. To the residue was added EtOAc and 50 mL of 1M NaOH. The aqueous phase was extracted again with fresh EtOAc. The combined organic extracts were dried over sodium sulfate, filtered and dried under vacuum to give 0.301 g (94% yield) of the final product as oil. LC-MS found: 155.1 (M−Boc)+.

reactant | tert-butyl[2-(3-fluorophenyl)-2-oxoethyl]carbamate | 1.3 mmol, 0.32 g | C(C)(C)(C)OC(NCC(=O)C1=CC(=CC=C1)F)=O | C13H16FNO3
reactant | ammonium acetate | 26.2 mmol, 2.02 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 3.5 mmol, 0.22 g | C(#N)[BH3-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | tert-butyl[2-amino-2-(3-fluorophenyl)ethyl]carbamate | 0.301 g, 94% yield | C(C)(C)(C)OC(NCC(C1=CC(=CC=C1)F)N)=O | C13H19FN2O2
